US05614530
A mixture of 1-ethyl-N-(3-methoxyphenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine (3.8 g, 0.0114 mol) and pyridine hydrochloride (10 g) was heated at about 200° C. for 3 hours. The reaction mixture was cooled and then 10% NaOH (70 mL) was added. The mixture was washed with ether (2×30 mL) and then the aqueous layer was acidified with acetic acid to a pH of about 5. The solid which formed was collected by filtration and dried in vacuo to afford 2.5-3 g of 1-ethyl-N-(3-hydroxyphenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as an off-white solid, m.p. 273°-275° C.

reactant | 1-ethyl-N-(3-methoxyphenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 0.0114 mol, 3.8 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC(=CC=C2)OC | C20H20N4O
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
solvent | NaOH | 70 mL | [OH-].[Na+]
product | 1-ethyl-N-(3-hydroxyphenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 2.5-3 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC(=CC=C2)O | C19H18N4O
